US08530504B2
[2,6-Dimethoxy-4-(1-methoxyethyl)phenyl]boronic acid
To a tetrahydrofuran (200 ml) solution of 2-bromo-1,3-dimethoxy-5-(1-methoxyethyl)benzene (7.39 g, 26.9 mmol), was added dropwise 1.57M n-butyl lithium (18.8 ml, 29.6 mmol) at −78° C., and the mixture was stirred for 30 minutes. To the mixture, was added dropwise trimethyl borate (6.00 ml, 53.8 mmol), and warmed to room temperature. After the reaction was completed, a saturated aqueous solution of ammonium chloride was added while cooling on ice, which was extracted with ethyl acetate and dried over anhydrous magnesium sulfate, and the solvent was then distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-heptane/ethyl acetate=1/1) to obtain the title compound (4.97 g, 20.7 mmol)

reactant | 2-bromo-1,3-dimethoxy-5-(1-methoxyethyl)benzene | 26.9 mmol, 7.39 g | BrC1=C(C=C(C=C1OC)C(C)OC)OC | C11H15BrO3
reactant | n-butyl lithium | 29.6 mmol, 1.57M, 18.8 ml | C(CCC)[Li]
reactant | trimethyl borate | 53.8 mmol, 6.00 ml | B(OC)(OC)OC | C3H9BO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | [2,6-Dimethoxy-4-(1-methoxyethyl)phenyl]boronic acid | 20.7 mmol, 4.97 g | COC1=C(C(=CC(=C1)C(C)OC)OC)B(O)O | C11H17BO5
